US07423031B2
(7-Fluoro-1-oxo-1,2,3,10-tetrahydro-azepino[3,4-b]indol-5-yl)-acetyl azide
To an ice-cold solution of (7-fluoro-1-oxo-1,2,3,10-tetrahydro-azepino[3,4-b]indol-5-yl)-acetic acid (0.99 g, 3.6 mmol) and triethylamine (0.36 g, 3.6 mmol) in dry DMF (10 mL) was added in dropwise a solution of diphenylphosphoryl azide (0.99 g, 3.6 mmol), in DMF (5 mL) over a period of 2 h. After removal of the cooling bath, the mixture was stirred at room temperature for 12 h. It was poured into ice and the precipitate therefore formed was collected by vacuum filtration, which appeared to be the title compound (0.10 g). Extract the rest part of the mixture with ethyl acetate (20 mL×2). The organic layers were combined, washed with saturated aqueous NaHCO3, brine, and dried over anhydrous Na2SO4. It was concentrated and the oil obtained was treated with diethyl ether to give additional title compound as a solid precipitate (0.23 g).

reactant | (7-fluoro-1-oxo-1,2,3,10-tetrahydro-azepino[3,4-b]indol-5-yl)-acetic acid | 3.6 mmol, 0.99 g | FC=1C=C2C3=C(NC2=CC1)C(NCC=C3CC(=O)O)=O | C14H11FN2O3
reactant | triethylamine | 3.6 mmol, 0.36 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 3.6 mmol, 0.99 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (7-Fluoro-1-oxo-1,2,3,10-tetrahydro-azepino[3,4-b]indol-5-yl)-acetyl azide | FC=1C=C2C3=C(NC2=CC1)C(NCC=C3CC(=O)N=[N+]=[N-])=O | C14H10FN5O2
